US07897766B2
2-Methyl-1H-benzoimidazole-5-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide dihydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 2-methyl-1H-benzimidazole-5-carboxylic acid (Acros) according to methods A and C; yield 83 mg, 0.21 mmol (58%): 1H NMR (300 MHz, methanol-d4) δ 2.02-2.31 (m, 5H), 2.50 (s, 2H), 2.89 (s, 3H), 3.50 (d, J=13 Hz, 2H), 3.57 (s, 2H), 3.92 (d, J=13 Hz, 2H), 4.32 (s, 1H), 7.82 (d, J=9 Hz, 1H), 8.11 (dd, J=9, 2 Hz, 1H), 8.33 (s, 1H), 8.57 (d, J=5 Hz, 1H); MS (DCI/NH3) m/z 311 (M+H)+; Anal. C18H22N4O2HCl1.0H2O: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 2-methyl-1H-benzimidazole-5-carboxylic acid | CC1=NC2=C(N1)C=CC(=C2)C(=O)O | C9H8N2O2
reactant | NH3 | N | H3N
product | 2-Methyl-1H-benzoimidazole-5-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide dihydrochloride | Cl.Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C2=CC3=C(NC(=N3)C)C=C2 | InChI=1S/C18H22N4O.2ClH/c1-10-19-15-3-2-12(6-16(15)20-10)18(23)21-17-13-4-11-5-14(17)9-22(7-11)8-13;;/h2-3,6,11,13-14,17H,4-5,7-9H2,1H3,(H,19,20)(H,21,23);2*1H/t11?,13?,14?,17-;;
